US07449456B2
By treating 3-fluorobenzonitrile with N-methylethanolamine under heating, 3-(N-2-hydroxyethyl-N-methylamino)benzonitrile was obtained (F: 177). This benzonitrile was treated in the same manner as in Reference Example 2 to obtain 3-(N-2-hydroxyethyl-N-methylamino)benzylamine. F: 181.

reactant | 3-fluorobenzonitrile | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | N-methylethanolamine | CNCCO | C3H9NO
product | 3-(N-2-hydroxyethyl-N-methylamino)benzonitrile | OCCN(C)C=1C=C(C#N)C=CC1 | C10H12N2O
